* Z:\mnt\design.r\spice\examples\1709-7.asc
M§Q1 IN N003 N006 N006 FDS6680A
C1 N005 N006 .47µ
M§Q2 N006 N011 0 0 FDS6680A
D1 N001 N005 1N5818
L1 N006 N007 1µ
R1 N007 OUT 2m
D2 0 N006 1N5818
M§Q3 IN N015 N018 N018 FDS6680A
C2 N017 N018 .47µ
M§Q4 N018 N021 0 0 FDS6680A
L2 N018 N019 1µ
D3 0 N018 1N5818
C3 OUT 0 1000µ x2 Rser=25m
C5 N012 0 .01µ
R2 N013 N012 1K
C6 N010 0 250p
D4 N001 N017 1N5818
V1 IN 0 6
R3 N019 OUT 2m
R4 N008 0 10K
C7 N009 N008 .01µ
C8 N001 0 1µ
V2 N004 0 SINE(.5 .5 200K)
XU1 N010 N007 OUT N014 N009 N004 MP_01 N013 0 N016 0 OUT OUT N019 N014 N016 N020 N022 N023 N024 N025 N001 0 N015 N018 N017 N021 0 N001 N002 N011 IN N005 N006 N003 LTC1709-7
Rload OUT 0 .1
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 750u startup
.lib LTC1709-7.sub
.backanno
.end
